US04843087
(c) 4-(6-Bromohexyloxy)benzoyl chloride [XIII; R1 and R2 =H, Y=(CH2)6, Hal=Br]
A mixture of 452 g of 4-(6-bromohexyloxy)benzoic acid and 1000 g of thionyl chloride was stirred at room temperature for about 20 hours. The reaction mixture was concentrated in vacuo and residual thionyl chloride removed by repeated addition of toluene and concentration in vacuo. The oily product comprising 4-(6-bromohexyloxy)benzoyl chloride (450 ml) was used directly in the next reaction.

reactant | 4-(6-bromohexyloxy)benzoic acid | 452 g | BrCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H17BrO3
reactant | thionyl chloride | 1000 g | S(=O)(Cl)Cl | Cl2OS
product | 4-(6-Bromohexyloxy)benzoyl chloride | BrCCCCCCOC1=CC=C(C(=O)Cl)C=C1 | C13H16BrClO2
